US05217705
Preparation of D-phenylalanine-L-proline-methyl ester (4)
To 1.54 gm (4 mmole) of T-Boc-D-Phe-L-Pro-Me (3) 35 ml of trifluoracetic acid was added. This solution was stirred at 0° C. (H2O/ice) for one hr. as the bath gradually rose to room temperature. TLC acetonitrile:water:acetic acid (EtOAc:Hex, 4:6) using the KMnO4 stain showed complete disappearance of starting material. TLC (CH3CN:H2O:AcOH, 94:5:1, ninhydrin stain) indicated one product (Rf 0.7).

reactant | trifluoracetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | CH3CN | CC#N | C2H3N
reactant | acetonitrile | C(C)#N | C2H3N
solvent | AcOH | CC(=O)O | C2H4O2
solvent | H2O | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | D-phenylalanine L-proline-methyl ester | N[C@H](CC1=CC=CC=C1)C(=O)O.COC([C@H]1NCCC1)=O | InChI=1S/C9H11NO2.C6H11NO2/c10-8(9(11)12)6-7-4-2-1-3-5-7;1-9-6(8)5-3-2-4-7-5/h1-5,8H,6,10H2,(H,11,12);5,7H,2-4H2,1H3/t8-;5-/m10/s1
